US08497278B2
4-(6-chloro-3-((4-chloro-6-methylpyrimidin-2-ylamino)methyl)imidazo[1,2-a]pyridin-2-yl)benzonitrile (161)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 4-(6-chloro-3-(chloromethyl)imidazo[1,2-a]pyridin-2-yl)benzonitrile hydrochloride and 4-chloro-6-methylpyrimidin-2-amine. m/e+ 409.0, 411.0 for C20H14Cl2N6; H-NMR (400 MHz, CDCl3) 8.80 (s, 1H), 7.953 (d, J=8.277 Hz, 2H), 7.750 (d, J=8.093 Hz, 2H), 7.593 (d, J=9.533 Hz, 1H), 7.234 (d, J=9.551 Hz, 1H), 6.545 (s, 1H), 5.257 (s, NH), 5.03 (d, J=5.498 Hz, 2H, D, CH2), 2.311 (s, 6H, D, 2CH3) ppm.

reactant | 4-(6-chloro-3-(chloromethyl)imidazo[1,2-a]pyridin-2-yl)benzonitrile hydrochloride | Cl.ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C#N)C=C2)CCl
reactant | 4-chloro-6-methylpyrimidin-2-amine | ClC1=NC(=NC(=C1)C)N | C5H6ClN3
product | 4-(6-chloro-3-((4-chloro-6-methylpyrimidin-2-ylamino)methyl)imidazo[1,2-a]pyridin-2-yl)benzonitrile | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C#N)C=C2)CNC2=NC(=CC(=N2)Cl)C | C20H14Cl2N6
